US07335658B2
6-[4-(2,5-DICHLOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2,5-dichlorobenzoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (56% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.96, 7.38-7.30, 6.97, 4.12-3.23, 1.50, 0.80-0.67, 0.51-0.38, 0.16-0.06. MS (ES+) m/z 448.2 (M+1).

reactant | 2,5-dichlorobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,5-DICHLOROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)Cl)=O | C21H23Cl2N5O2
